US07585881B2
Hydroxycarbonimidic dibromide (2.21 g, 10.89 mmol) was added portionwise over 1 h 20 min to a mixture of 3-chlorobenzonitrile (3.00 g, 21.29 mmol) and NaHCO3 (2.9 g, 34.87 mmol) in toluene (3 ml) at 90° C. Stirring was continued for 3 h and then the reaction mixture was cooled to r.t., diluted with EA and washed with water. The organic phase was dried and concentrated. A mixture of 3-chlorobenzonitrile and 3-bromo-5-(3-chlorophenyl)-1,2,4-oxadiazole was obtained after flash chromatography (hex/EA 10:1). 1.0 g of the mixture was dissolved in MeNH2 (4 ml, 8.5 M in EtOH) and heated in a microwave reactor for 30 min at 60° C. The volatiles were removed under reduced pressure and the residue was dissolved in water and extracted with CHCl3. The organic phase was dried and concentrated. Recrystallization from EA gave 137 mg of the title compound. 1H NMR: 3.00 (d, 3 H) 4.35 (bs, 1 H) 7.43 (t, 1 H) 7.50-7.55 (m, 1 H) 7.92 (d, 1 H) 8.03 (s, 1 H)

reactant | Hydroxycarbonimidic dibromide | 10.89 mmol, 2.21 g | ON=C(Br)Br | CHBr2NO
reactant | 3-chlorobenzonitrile | 21.29 mmol, 3.00 g | ClC=1C=C(C#N)C=CC1 | C7H4ClN
reactant | NaHCO3 | 34.87 mmol, 2.9 g | C(=O)(O)[O-].[Na+]
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
solvent | EA | CC(OCC)=O | C4H8O2
product | 3-bromo-5-(3-chlorophenyl)-1,2,4-oxadiazole | BrC1=NOC(=N1)C1=CC(=CC=C1)Cl | C8H4BrClN2O
